US08012976B2
(E)-6-Fluoro-4-((1-methyl-1H-imidazol-2-yl)methyleneamino)isobenzofuran-1(3H)-one
A solution of 1-methyl-1H-imidazole-2-carbaldehyde (659 mg, 6.0 mmol), 4-amino-6-fluoroisobenzofuran-1(3H)-one (1.0 g, 6.0 mmol), and anhydrous magnesium sulfate (7.2 g, 60.0 mmol) in acetonitrile (100 mL) was heated to reflux for 2 days. The solution was filtered and the solvents were removed in vacuum. The crude product was re-crystallized from isopropanol to afford the title compound (1.068 g, yield 68%) LC-MS (ESI) m/z: 260 (M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 4.04 (s, 3H), 5.49 (s, 2H), 7.24 (s, 1H), 7.54-7.58 (m, 2H), 7.73-7.76 (m, 1H), 8.70 (s, 1H).

reactant | 1-methyl-1H-imidazole-2-carbaldehyde | 6.0 mmol, 659 mg | CN1C(=NC=C1)C=O | C5H6N2O
reactant | 4-amino-6-fluoroisobenzofuran-1(3H)-one | 6.0 mmol, 1.0 g | NC1=C2COC(C2=CC(=C1)F)=O | C8H6FNO2
reactant | magnesium sulfate | 60.0 mmol, 7.2 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (E)-6-Fluoro-4-((1-methyl-1H-imidazol-2-yl)methyleneamino)isobenzofuran-1(3H)-one | 1.068 g, yield 68% | FC1=CC(=C2COC(C2=C1)=O)/N=C/C=1N(C=CN1)C | C13H10FN3O2
